US04171318
N-Ethyl (2E,4E,6Z,8E)-3,7-dimethyl-6-fluoro-9-(2,6-dichloro-3-methyl-4-methoxyphenyl)-2,4,6,8-nonatetraenamide
In a manner similar to that described in Example 26, 385 mg. (1 mmole) of (2E,4E,6Z,8E)-3,7-dimethyl-6-fluoro-9-(2,6-dichloro-3-methyl-4-methoxyphenyl)-nonatetraenoic acid were suspended in 15 ml. of dry benzene and treated with oxalyl chloride and dimethylformamide, followed by dry ethylamine. Work-up as described in Example 26 afforded N-ethyl (2E,4E,6Z,8E)-3,7-diemthyl-6-fluoro-9-(2,6-dichloro-3-methyl-4-methoxyphenyl)-2,4,6,8-nonatetraenamide.

reactant | (2E,4E,6Z,8E)-3,7-dimethyl-6-fluoro-9-(2,6-dichloro-3-methyl-4-methoxyphenyl)-nonatetraenoic acid | 1 mmole | C\C(=C/C(=O)O)\C=C\C(=C(\C=C\C1=C(C(=C(C=C1Cl)OC)C)Cl)/C)\F | C19H19Cl2FO3
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethylamine | C(C)N | C2H7N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Ethyl (2E,4E,6Z,8E)-3,7-dimethyl-6-fluoro-9-(2,6-dichloro-3-methyl-4-methoxyphenyl)-2,4,6,8-nonatetraenamide | C(C)NC(\C=C(\C=C\C(=C(\C=C\C1=C(C(=C(C=C1Cl)OC)C)Cl)/C)\F)/C)=O | C21H24Cl2FNO2
